US05077282
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-phosphono-1-piperazinyl)-3-quinolinecarboxylic Acid
To a stirred solution of 2.34 g of the product of Example 40 in 25 ml of methylene chloride under argon was added 2.57 g of N,O-bis(trimethylsilyl)triflouroacetamide and then (after 10 minutes) 2.68 g of bromotrimethylsilane. After 17 hours, the solution was evaporated to dryness at 40° C./0.02 mm. The evaporation was then repeated twice after redissolving the residue in 25 ml portions of methylene chloride. A solution of the residual solid in 25 ml of methylene chloride was added to a stirred solution of 1 ml of water in 100 ml of acetone and then stirred for 15 minutes, to hydrolyze silyl ester groups. The resulting solid was collected and washed with acetone to give 2.24 g of cream-colored solid, m.p. 246°-252° (dec.); 31P--NMR (in DMSO with 5% triethylamine) δ 9.34 compared to δ 0.54 (at 50° C.) for a salt of ciprofloxacin with an equimolar amount of phosphoric acid, and δ 0.35 for phosphoric acid. The product was soluble in 0.1M phosphate buffer, pH 7.5, unlike ciprofloxacin.

reactant | ciprofloxacin | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4 | C17H18FN3O3
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | phosphate | 0.1M | P(=O)([O-])([O-])[O-]
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-phosphono-1-piperazinyl)-3-quinolinecarboxylic Acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)P(=O)(O)O)F)=O)C(=O)O | C17H19FN3O6P
